US05475013
Part C. A solution of N-benzyloxycarbonyl 3(S)-amino-1,2-(S)-epoxy-4-phenylbutane (30.1 g, 0.10 mol) and 165 mL of isoamylamine in 150 mL of isopropyl alcohol was heated to reflux for 2.5 hours. The solution was cooled to room temperature, concentrated in vacuo and then recrystallized. The product was isolated by filtration and from ethylacetate/hexane to afford 31.7 g (81%) of N[3(S)-benzyloxycarbonylamino-2(R)-hydroxy-4-phenylbutyl]N-isoamylamine.

reactant | N-benzyloxycarbonyl 3(S)-amino-1,2-(S)-epoxy-4-phenylbutane | 0.10 mol, 30.1 g | C(C1=CC=CC=C1)OC(=O)N[C@H]([C@H]1CO1)CC1=CC=CC=C1 | C18H19NO3
reactant | isoamylamine | 165 mL | C(CC(C)C)N | C5H13N
solvent | isopropyl alcohol | 150 mL | C(C)(C)O | C3H8O
product | N[3(S)-benzyloxycarbonylamino-2(R)-hydroxy-4-phenylbutyl]N-isoamylamine | 31.7 g, 81% | C(C1=CC=CC=C1)OC(=O)N[C@H]([C@@H](CNCCC(C)C)O)CC1=CC=CC=C1 | C23H32N2O3
